data/core_train_final.csv
"[CH2:20]=[C:21](C)/[CH:22]=[CH:23]/C1CC1(C(OCC)=O)C(OCC)=O.[Sn:10](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4>>C/[C:21]([CH2:20][Sn:10](C5=CC=CC=C5)(C6=CC=CC=C6)C7=CC=CC=C7)=[CH:22]\[CH:23]C8CC8(C(OCC)=O)C(OCC)=O 10-10,20;20,21-10,20;20,21-21,22;22,23-21,22;22,23-23",Room Temperature,Propagation,addition
"[H:20][Sn:21](CCCC)(CCCC)CCCC.C=CCC[CH:10]CCOC1=CC=CC=C1>>[H:20][CH:10](CCC=C)CCOC1=CC=CC=C1.CCCC[Sn:21](CCCC)CCCC 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[CH3:9][C:8]1([CH:11]2[CH:7]1[CH:3]3[C:4](=[N:6])[CH2:5][C:2]3([CH2:13][CH2:12]2)[CH3:1])[CH3:10]>>[CH3:9][C:8]1([CH:11]2[CH:7]1[CH:3][C:2]([CH2:13][CH2:12]2)([CH3:1])[CH2:5][C:4]#[N:6])[CH3:10] 4,3-3; 4,3-4,6; 6-4,6",Room Temperature,Propagation,retroaddition
"[H:20][C:21](C)(C)C1=CC=CC=C1.[CH3:10]>>[H:20][CH3:10].C[C:21](C)C1=CC=CC=C1 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[C:6](=[C:8]([F:9])[F:10])([F:5])[F:7].[O-:3][S:2](=[O:1])=[O:4]>>[C:8]([C:6]([F:5])([F:7])[S:2](=[O:1])(=[O:4])[O-:3])([F:9])[F:10] 8,6-6,2;2-2,6;6,8-8",Room Temperature,Propagation,addition
"[H:9][C:6]([H:10])([CH2:7][CH3:8])[CH2:5][C:2]([CH3:1])([CH3:3])[CH3:4].[Cl:11]>>[H:9][C:6]([CH2:7][CH3:8])[CH2:5][C:2]([CH3:1])([CH3:3])[CH3:4].[H:10][Cl:11] 11-11,10;10,6-11,10;10,6-6",Room Temperature,Propagation,abstraction
"[CH3:10].[CH2:20][CH3:21]>>[CH3:10][CH2:20][CH3:21] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:3][C:2]([CH3:1])([CH2:5][CH3:6])[Cl:4].[Cl:7]>>[H:3][Cl:7].[CH3:6][CH2:5][C:2]([CH3:1])[Cl:4] 7-3,7;3,2-3,7;2,3-2",Room Temperature,Propagation,abstraction
"CCCC[Sn](CCCC)(CCCC)I.CC1(CCC=C1)[CH:10]CC(C/[CH:20]=[CH:21]/C(=O)OC)(C(=O)OC)C(=O)OC>>CCCC[Sn](CCCC)(CCCC)I.CC1(CCC=C1)[CH:10]2CC(C[CH:20]2[CH:21]C(=O)OC)(C(=O)OC)C(=O)OC 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"C[CH:10]C1=CC=CC=C1.[CH2:20]=[CH:21]C(=O)C1=CC=CC=C1>>C[CH:10]([CH2:20][CH:21]C(=O)C1=CC=CC=C1)C2=CC=CC=C2 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"[H:8][C:7]1[CH2:6][CH2:5][CH2:4][C:3](=[C:2]1[CH3:1])[CH3:9].[Br:10][Br:11]>>[H:8][C:7]1([CH2:6][CH2:5][CH2:4][C:3](=[C:2]1[CH3:1])[CH3:9])[Br:10].[Br:11] 10,11-7,10;7-7,10;10,11-11",Room Temperature,Propagation,abstraction
"CC=C[C:1](C)=[CH:2][C:3]([H])C>>C[C:1]([CH:2]=[CH:3]C)C=CC 3-3,2;2,1-3,2;2,1-1",Room Temperature,Propagation,resonance
"[H:4][C:3]([H:5])[CH:2]=[CH2:1].[H:7][Br:6].[Br:8]>>[H:4][C:3]([H:5])([CH:2]=[CH2:1])[Br:8].[H:7][Br:6] 3-3,8;8-3,8",Room Temperature,Termination,recombine
"[CH:21]1=[CH:20]C(C(C=C1)Cl)Cl.[Cl:10]>>C1=CC(C([CH:20]([CH:21]1)[Cl:10])Cl)Cl 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"[H:20][CH:21]1CCCO1.C1CC(OC1)O[O:10]>>[H:20][O:10]OC1CCCO1.C1C[CH:21]OC1 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CCOC(=O)C1(CC1/C=C/[C:21](=[CH2:20])C)C(=O)OCC.C1=CC=C(C=C1)[Sn:10](C2=CC=CC=C2)C3=CC=CC=C3>>CCOC(=O)C1(CC1/C=C/[C:21](C)[CH2:20][Sn:10](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4)C(=O)OCC 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"[H:20][CH:21]1C2=C(C=CC=C2)C3=CC=CC=C13.C1C[C:10](=O)[N:11]C1=O>>C1C[C:10](=O)[N:11]([H:20])C1=O.C1=CC=C2C3=C(C=CC=C3)[CH:21]C2=C1 11-11,20;20,21-11,20;20,21-21",Room Temperature,Propagation,abstraction
"C[C@]12CCCC([C@@H]1CCC(=O)[C:21]2=[CH2:20])(C)C.CC(C)(C)OC(=O)N1[C@@H](C[C:10]2C1N(C3=C2C=CC=C3)C(=O)OC(C)(C)C)C(=O)OC>>C[C@]12CCCC([C@@H]1CCC(=O)[C:21]2[CH2:20][C:10]34C[C@H](N(C3N(C5=C4C=CC=C5)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C(=O)OC)(C)C 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"COC1=[C:10]C(CC[C:20]#[C:21]CCCC)=C(C(OC)=C1OC)[O]>>COC1=[C:10]2C(CC[C:20]2=[C:21]CCCC)=C([O])C(OC)=C1OC 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"[CH3:21][I:20].[I:30]>>[CH3:21].[I:20][I:30] 30-30,20;20,21-30,20;20,21-21",Room Temperature,Propagation,abstraction
"CCCC[CH2:10].[CH2:20][CH2:21]C>>CCCC[CH2:10][CH2:20][CH2:21]C 10-10,20;20-10,20",Room Temperature,Termination,recombine
"COC(=O)[C@H]([C@@H]1C[CH:10][CH:20]=[CH:21]1)N(CCC#N)[O]>>COC(=O)[C@H]([C@@H]1C[CH:10]=[CH:20][CH:21]1)N(CCC#N)[O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,resonance
"O=C1CCC2=C([C:10](C1)C(OCC)=O)C=CC=C2.[H:20][Sn:21](CCCC)(CCCC)CCCC>>O=C3CCC4=C([C:10](C3)([H:20])C(OCC)=O)C=CC=C4.CCCC[Sn:21](CCCC)CCCC 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[I:1].[I:2]>>[I:1][I:2] 1-1,2;2-1,2",Room Temperature,Termination,recombine
"[H:1][C:2]1([CH2:4][CH2:5][CH2:6]1)[H:3].[Cl:7]>>[H:1][C:2]1[CH2:4][CH2:5][CH2:6]1.[H:3][Cl:7] 7-3,7;2,3-3,7;2,3-2",Room Temperature,Propagation,abstraction
"[O:1][C:2]([C:3]1=CC=CC=C1)=O>>[O:1]=[C:2]=O.[C:3]2=CC=CC=C2 1-1,2;2,3-1,2;2,3-3",Room Temperature,Propagation,retroaddition
"[H:20][Br:21].CC(C)(C)[O:10]>>[H:20][O:10]C(C)(C)C.[Br:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
